US06319702B1
A 50 mL round bottomed flask equipped with a magnetic stirrer was charged with 96 mg of N-((tert-butoxy)carbonyl)-4-(bis(2-chloroethyl)amino)-L-phenylalanine 77 mg of tert-butyl 3-cyclopentyl-L-phenylalaninate.HCl, and 10 mL of CH2Cl2. The solution was cooled to 0° C. and treated with 48 mg of EDC (Aldrich) followed by 0.026 mL of N-methylmorpholine. The reaction mixture was stirred at 0° C. for 20 min, allowed to warm to RT, and stirred for an additional 2 h. Analysis of the solution by tlc (SiO2, 7:3 hexane:EtOAc) indicated a major new component at Rf=0.54 and four minor components at Rf=0.4, 0.37, 0.16 and 0.0. The solution was concentrated in vacuo to dryness and the residue was subjected to flash chromatography on 50 g of silica gel to afford 73 mg (46%) of tert-butyl N-((tert-butoxy)carbonyl)-4-(bis(2-chloroethyl)amino)-L-phenylalanyl-(3-cyclopenty)-L-phenylalaninate as a thick semi-solid.

reactant | N-((tert-butoxy)carbonyl)-4-(bis(2-chloroethyl)amino)-L-phenylalanine | 96 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)N(CCCl)CCCl)C(=O)O | C18H26Cl2N2O4
reactant | tert-butyl 3-cyclopentyl-L-phenylalaninate | C1(CCCC1)C=1C=C(C[C@H](N)C(=O)OC(C)(C)C)C=CC1 | C18H27NO2
reactant | HCl | Cl | ClH
reactant | N-methylmorpholine | 0.026 mL | CN1CCOCC1 | C5H11NO
reactant | hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EDC | 48 mg
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-((tert-butoxy)carbonyl)-4-(bis(2-chloroethyl)amino)-L-phenylalanyl-(3-cyclopenty)-L-phenylalaninate | 73 mg, 46% | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)N(CCCl)CCCl)C(=O)N([C@@H](CC1=CC=CC=C1)C(=O)OC(C)(C)C)C1CCCC1 | C36H51Cl2N3O5
